US09056859B2
3-Aminophenylacetic acid (1.0 g, 6.62 mmol) was stirred in acetic acid (15 ml) and added triethyl orthoformate (2.203 ml, 13.23 mmol) followed by sodium azide (0.774 g, 11.91 mmol) then heated to reflux for 3 hrs. The reaction was concentrated and added water then extracted with ethyl acetate and tetrahydrofuran (2×). The organic layers were combined and washed with brine (1×), then dried over Na2SO4 and evaporated to dryness. The residue was triturated with ether, filtered and dried to yield [3-(1H-tetrazol-1yl)phenyl]acetic acid. LC-MS (IE, m/z): 205 [M+1]+; 1H-NMR (500 MHz, DMSO) δ ppm 12.45 (b, 1H), 10.1 (s, 1H), 7.84 (s, 1H), 7.79 (dd, J=8 Hz, 1.4 Hz, 1H), 7.59 (t, J=7.9 Hz, 1H), 3.73 (s, 2H);

reactant | 3-Aminophenylacetic acid | 6.62 mmol, 1.0 g | NC=1C=C(C=CC1)CC(=O)O | C8H9NO2
reactant | triethyl orthoformate | 13.23 mmol, 2.203 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 11.91 mmol, 0.774 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | [3-(1H-tetrazol-1yl)phenyl]acetic acid | N1(N=NN=C1)C=1C=C(C=CC1)CC(=O)O | C9H8N4O2
